* C:\Users\lakat\Downloads\Fuente_v2.asc
D10 N004 N001 MURS320
D11 N011 N001 MURS320
D12 0 N011 MURS320
D13 0 N004 MURS320
L1 N004 N011 1µ
L3 N003 0 380µ Rser=0.0001
V1 N003 0 SINE(0 311 50) Rser=0.0001
D1 N002 N001 MURS320
R3 N002 N007 240
D4 N007 N002 MURS320
C1 N007 0 10µ
R4 N007 N010 {Rd}
D5 0 N012 MURS320
D6 N012 N010 MURS320
C2 N002 0 100µ
V2 base 0 -10
R6 N006 N005 1.25
D2 N006 P001 MURS320
D3 P001 N009 MURS320
C3 N006 0 100µ
J1 N010 base base 2N5486
J2 N009 base base 2N3819
D7 N013 N014 MURS320
R1 N014 N018 240
D8 N014 N018 MURS320
C4 N018 0 10µ
R2 N018 N021 {Rd}
D9 N022 0 MURS320
D14 N021 N022 MURS320
C5 N014 0 1m
R5 N017 N016 1.25
D15 P002 N017 MURS320
D16 N020 P002 MURS320
C6 N017 0 100µ
J3 N021 base2 base2 2N5486
J4 N020 base2 base2 2N3819
R7 V- N014 2k
R8 0 V- 8k
V3 base2 0 -10
XU3 N013 N019 N016 LM337
XU4 N017 N018 N014 LM337
R9 N017 N019 {R_limit*1k}
R10 N020 N019 {1k*(1-R_limit)}
R11 N006 N008 {R_limit*1k}
R12 N009 N008 {1k*(1-R_limit)}
R13 V+ N002 0.0001
XU5 N006 N007 N002 LM317 LM317
XU6 N001 N008 N005 LM317 LM317
D17 N015 0 MURS320
D18 N023 0 MURS320
D19 N013 N023 MURS320
D20 N013 N015 MURS320
L4 N015 N023 1µ
L6 N003 0 380µ Rser=0.0001
.model D D
.lib C:\Users\lakat\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\lakat\Documents\LTspiceXVII\lib\cmp\standard.jft
.inc MURS320T3.LIB
K L3 L1 1
.tran 1
.param Rd= 5k
.param R_limit = 0.5
K1 L6 L4 1
.lib LM317.sub
.lib LM337.sub
.backanno
.end
