* C:\Users\lakat\Downloads\Fuente_v2.asc
D10 N003 N001 MURS320
D11 N009 N001 MURS320
D12 0 N009 MURS320
D13 0 N003 MURS320
L1 N003 N009 1µ
L3 N002 0 380µ Rser=0.0001
V1 N002 0 SINE(0 311 50) Rser=0.0001
D1 V+ N001 MURS320
R3 V+ N007 240
D4 N007 V+ MURS320
C1 N007 N008 10µ
R4 N007 N008 {Rd}
C2 V+ 0 0.1µ
V2 base 0 -10
R6 N005 N004 1.25
C3 N005 0 2200µ
D7 N010 V- MURS320
R1 V- N014 240
D8 V- N014 MURS320
C4 N014 N006 10µ
R2 N014 N006 {Rd}
C5 V- 0 0.1µ
R5 N013 N012 1.25
C6 N013 0 2200µ
V3 base2 0 -10
XU3 N010 N013 N012 LM337
XU4 N013 N014 V- LM337
XU5 N005 N007 V+ LM317 LM317
XU6 N001 N005 N004 LM317 LM317
D17 N011 0 MURS320
D18 N015 0 MURS320
D19 N010 N015 MURS320
D20 N010 N011 MURS320
L4 N011 N015 1µ
L6 N002 0 380µ Rser=0.0001
R14 N005 N006 {Rdiv}
R15 N013 N008 {Rdiv}
D5 N006 P001 MURS320
D6 P001 0 MURS320
D9 P002 N008 MURS320
D14 0 P002 MURS320
D21 0 V+ MURS320
D22 V- 0 MURS320
.model D D
.lib C:\Users\lakat\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc MURS320T3.LIB
K L3 L1 1
.tran 1
.param Rd=0.00001
.param R_limit = 0.5
K1 L6 L4 1
.param Rdiv = 200
.lib LM317.sub
.lib LM337.sub
.backanno
.end
