* C:\Users\lakat\Downloads\Fuente_v2.asc
D10 N003 N001 MURS320
D11 N010 N001 MURS320
D12 N007 N010 MURS320
D13 N007 N003 MURS320
L1 N003 0 1µ
L3 N002 0 380µ Rser=0.0001
V1 N002 0 SINE(0 311 50) Rser=0.0001
D1 V+ N001 MURS320
R3 V+ N008 240
D4 N008 V+ MURS320
C1 N008 N009 10µ
R4 N008 N009 {Rd}
C2 V+ 0 0.1µ
V2 base 0 -10
R6 N005 N004 1.25
C3 N005 0 2200µ
D7 N007 V- MURS320
R1 V- N013 240
D8 V- N013 MURS320
C4 N013 N006 10µ
R2 N013 N006 {Rd}
C5 V- 0 0.1µ
R5 N012 N011 1.25
C6 N012 0 2200µ
V3 base2 0 -10
XU3 N007 N012 N011 LM337
XU4 N012 N013 V- LM337
XU5 N005 N008 V+ LM317 LM317
XU6 N001 N005 N004 LM317 LM317
R14 N005 N006 {Rdiv}
R15 N012 N009 {Rdiv}
D5 N006 P001 MURS320
D6 P001 0 MURS320
D9 P002 N009 MURS320
D14 0 P002 MURS320
D21 0 V+ MURS320
D22 V- 0 MURS320
L2 0 N010 1µ
.model D D
.lib C:\Users\lakat\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc MURS320T3.LIB
K L3 L1 L2 1
.tran 1
.param Rd=0.0001
.param R_limit = 0.5
.param Rdiv = 200
.lib LM317.sub
.lib LM337.sub
.backanno
.end
